US08080682B2
A mixture of bromoamide ((2R)-3-bromo-N-[4-cyano-3-(trifluoromethyl)phenyl]-2-hydroxy-2-methylpropanamide, R-19 (2.0 g, 5.70 mmol), anhydrous K2CO3 (2.4 g, 17.1 mmol) in 50 mL of acetone was heated to reflux for 2 h and then concentrated under reduced pressure to give a solid. The resulting solid was treated with 2-fluoro-4-hydroxybenzonitrile (1.2 g, 8.5 mmol) and anhydrous K2CO3 (1.6 g, 11.4 mmol) in 50 mL of 2-propanol was heated to reflux for 3 h and then concentrated under reduced pressure to give a solid. The residue was treated with 100 mL of H2O and then extracted with EtOAc (2×100 mL). The combined EtOAc extracts were washed with 10% NaOH (4×100 mL) and brine, successively. The organic layer was dried over MgSO4 and then concentrated under reduced pressure to give an oil which was crystallized from CH2Cl2/hexane to give 0.5 g (23%) of (S)-N-(4-cyano-3-(trifluoromethyl)phenyl)-3-(4-cyano-3-fluorophenoxy)-2-hydroxy-2-methylpropanamide as a colorless solid.

reactant | bromoamide | Br[NH-]
reactant | (2R)-3-bromo-N-[4-cyano-3-(trifluoromethyl)phenyl]-2-hydroxy-2-methylpropanamide | BrC[C@](C(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)(C)O | C12H10BrF3N2O2
reactant | K2CO3 | 17.1 mmol, 2.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-fluoro-4-hydroxybenzonitrile | 8.5 mmol, 1.2 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | K2CO3 | 11.4 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | 2-propanol | 50 mL | CC(C)O | C3H8O
solvent | H2O | 100 mL | O | H2O
product | (S)-N-(4-cyano-3-(trifluoromethyl)phenyl)-3-(4-cyano-3-fluorophenoxy)-2-hydroxy-2-methylpropanamide | 0.5 g, 23% | C(#N)C1=C(C=C(C=C1)NC([C@@](COC1=CC(=C(C=C1)C#N)F)(C)O)=O)C(F)(F)F | C19H13F4N3O3
